US09315495B2
A mixture of ethyl 5-hydroxy-1-methyl-1H-indole-2-carboxylate (103 mg, 0.47 mmol), propyl iodide (141 mg, 0.56 mmol) and cesium carbonate (230 mg, 0.70 mmol) in 1 mL dimethylformamide was stirred vigorously at 100° C. in a sealed vessel for 16 h. After cooling to room temperature, solids were filtered and the liquor concentrated. The crude residue was subjected to chromatography on silica gel with gradient elution (20-40% ethyl acetate in hexanes) to give ethyl 1-methyl-5-propoxy-1H-indole-2-carboxylate (96 mg, 55%). Used without further characterization.

reactant | ethyl 5-hydroxy-1-methyl-1H-indole-2-carboxylate | 0.47 mmol, 103 mg | OC=1C=C2C=C(N(C2=CC1)C)C(=O)OCC | C12H13NO3
reactant | propyl iodide | 0.56 mmol, 141 mg | C(CC)I | C3H7I
reactant | cesium carbonate | 0.70 mmol, 230 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | ethyl 1-methyl-5-propoxy-1H-indole-2-carboxylate | 96 mg, 55% | CN1C(=CC2=CC(=CC=C12)OCCC)C(=O)OCC | C15H19NO3
